US09079866B2
5-{5-[2-(2-Aminopyrimidin-5-yl)phenyl]pyridin-2-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and 5-(2-bromophenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C19H15N7, 341.14; m/z found, 342.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.97 (s, 2H), 8.47 (dd, J=2.3, 0.9, 1H), 8.16 (s, 2H), 7.86 (dd, J=8.2, 0.9, 1H), 7.80 (dd, J=8.2, 2.3, 1H), 7.59-7.49 (m, 4H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | 5-(2-bromophenyl)pyrimidin-2-amine | BrC1=C(C=CC=C1)C=1C=NC(=NC1)N | C10H8BrN3
product | 5-{5-[2-(2-Aminopyrimidin-5-yl)phenyl]pyridin-2-yl}pyrimidin-2-amine | NC1=NC=C(C=N1)C1=C(C=CC=C1)C=1C=CC(=NC1)C=1C=NC(=NC1)N | C19H15N7
